Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest discomfot
 
Major Surgical or Invasive Procedure:
___: Coronary artery bypass grafts x2 (LIMA-LAD, 
SVG-OM1); Endovascular saphenous vein harvest LLE. 
 
History of Present Illness:
Ms. ___ is a nice ___ year old woman with a past medical 
history of hyperlipidemia and hypertension. She also has a 
strong family history of coronary artery disease. She has been 
experiencing substernal chest discomfort on mild to moderate 
exertion and resolving with rest. She reports that the pain 
radiates to her bilateral upper extremities. She has associated 
symptoms of weakness and shortness of breath. She underwent a 
stress echocardiogram which demonstrated a large area of 
ischemia and a decrease in blood pressure with exercise. She was 
referred for coronary angiogram which demonstrated single vessel 
coronary artery disease. Cardiac surgery was consulted for 
consideration of revascularization.
 
Past Medical History:
Hematuria 
Hyperlipidemia
Hypertension
Psoriasis
Urethral lesion, has small kidney stone, needs cystoscopy 

Surgical History:
Hysterectomy 
L4-L5 fusion

 
Social History:
___
Family History:
Family history of father had first MI in his ___ - lived to the 
age of ___, mother died of MI at age ___, brother died of MI at 
age ___ after having had "heart issues" prior (had a totally 
occluded artery and also had stents in other arteries).
 
Physical Exam:
HR: 79  BP: 132/65  RR: 22  O2 sat: 99% RA 
Height: 66"  Weight: 150 lbs

Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally x
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ []
Extremities: Warm [x], well-perfused [x] Edema minimal ___ edema
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: palp      Left: palp
DP           Right: palp      Left: palp
___           Right: not palp  Left: not palp
Radial       Right: palp      Left: palp

Carotid Bruit: absent
.
Discharge Exam:
Physical Examination:
General: NAD
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [] 
Cardiovascular: RRR [x]  
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x] No Edema  
Left Upper extremity    Warm [x] No Edema 
Right Lower extremity   Warm [x] +1 Edema 
Left Lower extremity    Warm [x] +1 Edema 

Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] DSD
Lower extremity: Right [] Left [x]  CDI [x]
Upper extremity: Right [] Left []  CDI []
Other: Right UE induration at old IV sites (antecubital and
forearm) +tenderness, + erythema. 

 
Pertinent Results:
Cardiac Catheterization ___  
right dominant
LM: severe calcification in the proximal segment extending to 
the mid third of the LAD.
LAD: 90% stenosis in the ostium. 60% stenosis in the proximal 
segment. Moderate aneurysm in the proximal segment. 60% stenosis 
in the mid segment. Hazy. 50% stenosis in the mid segment. 
Collaterals from the mid segment of the RPDA connect to the 
distal segment. The ___ Diagonal, arising from the proximal 
segment, is a small caliber vessel.
LCx: 50% stenosis in the proximal segment. 
RCA: mild irregularities in the proximal and mid segments. 

Transthoracic Echocardiogram ___
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative
biplane left ventricular ejection fraction is 67% (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg). Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with a normal ascending 
aorta diameter for gender. The aortic arch diameter is normal 
with a normal descending aorta diameter. There is no evidence 
for an aortic arch coarctation. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. There 
is mild [1+] aortic regurgitation. The mitral valve leaflets are 
mildly thickened with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is borderline elevated. There 
is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild aortic regurgitation. Mild mitral regurgitation.

Transesophageal Echocardiogram ___
PRE-OPERATIVE STATE: Pre-operative assessment. Sinus rhythm.
Left Atrium (LA)/Pulmonary Veins: Normal LA size.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
Normal interatrial septum. No atrial septal defect by 2D/color 
flow Doppler.
Left Ventricle (LV): Normal cavity size. Normal regional & 
global systolic function
Right Ventricle (RV): Normal free wall motion.
Aorta: Mild sinus dilation. Mild ascending dilation. Normal arch 
diameter. Normal descending aorta diameter. No dissection. No 
ascending atheroma. Simple arch atheroma. Simple descending 
atheroma.
Aortic Valve: Thin/mobile (3) leaflets. No stenosis. Mild [1+] 
regurgitation. Central jet.
Mitral Valve: Mildly thickened leaflets. No stenosis. Mild [1+] 
regurgitation. Central jet.
Tricuspid Valve: Normal leaflets. Mild [1+] regurgitation.
Pericardium: No effusion.

POST-OP STATE: The post-procedure TEE was performed at 13:43:00. 
Atrial paced rhythm.
Left Ventricle: Similar to preoperative findings. Global 
ejection fraction is normal.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: No change in aortic valve morphology from 
preoperative state. Unchanged gradient. No change in aortic 
regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state. No change in valvular regurgitation from 
preoperative state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
Pericardium: No effusion. No tamponade.
.
TTE CONCLUSION:
The left atrial volume index is normal. The right atrium is 
moderately enlarged. The estimated right
atrial pressure is >15mmHg. There is normal left ventricular 
wall thickness with a normal cavity size.
There is suboptimal image quality to assess regional left 
ventricular function. Overall left ventricular
systolic function is normal. The visually estimated left 
ventricular ejection fraction is 70%. There is
no resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with SEVERE
global free wall hypokinesis. Tricuspid annular plane systolic 
excursion (TAPSE) is depressed. Intrinsic
right ventricular systolic function is likely lower due to the 
severity of tricuspid regurgitation. There is
abnormal interventricular septal motion c/w right ventricular 
volume overload. The aortic sinus diameter
is normal for gender with a normal ascending aorta diameter for 
gender. The aortic arch diameter is
normal with a normal descending aorta diameter. The aortic valve 
leaflets (3) appear structurally normal.
There is no aortic valve stenosis. There is aortic regurgitation 
(not qualified). The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. There 
is moderate [2+] mitral regurgitation.
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally normal. There is
SEVERE [4+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is borderline
elevated. In the setting of at least moderate to severe 
tricuspid regurgitation, the pulmonary artery
systolic pressure may be UNDERestimated. There is no pericardial 
effusion.
IMPRESSION: Suboptimal image quality. Severe tricusid 
regurgitation. Severe right ventricular
systolic dysfunction.
Compared with the prior TTE (images reviewed) of ___ , 
severe tricuspid regurgitation and
severe right ventricular dysfunction now seen.
.
CXR PA LAT:
IMPRESSION:  
Comparison to ___.  The right internal jugular vein 
catheter has been removed.  Better seen on the lateral than on 
the frontal view are small bilateral pleural effusions, limited 
to the posterior aspect of the 
costophrenic sinuses.  No pulmonary edema.  Mild postoperative 
cardiomegaly.  No pneumonia.  Bandlike parenchymal opacity along 
the previous course of the left chest tube. 
.
Discharge Labs:
___ 04:40AM BLOOD WBC-8.5 RBC-3.84* Hgb-11.0* Hct-34.6 
MCV-90 MCH-28.6 MCHC-31.8* RDW-13.8 RDWSD-45.1 Plt ___
___ 05:38AM BLOOD WBC-8.6 RBC-3.62* Hgb-10.5* Hct-33.0* 
MCV-91 MCH-29.0 MCHC-31.8* RDW-14.2 RDWSD-47.1* Plt ___
___ 05:38AM BLOOD Glucose-95 UreaN-17 Creat-0.7 Na-141 
K-5.0 Cl-103 HCO3-27 AnGap-11
___ 04:40AM BLOOD Glucose-103* UreaN-10 Creat-0.6 Na-141 
K-3.8 Cl-100 HCO3-28 AnGap-13
___ 05:38AM BLOOD ALT-22 AST-17 AlkPhos-89 Amylase-42
___ 05:38AM BLOOD Mg-2.1
___ 06:12AM BLOOD %HbA1c-5.8 eAG-120
___ 06:12AM BLOOD Triglyc-51 HDL-69 CHOL/HD-2.0 LDLcalc-62
___ 06:12AM BLOOD TSH-2.3
 
Brief Hospital Course:
She was admitted on ___ and underwent routine 
preoperative testing and evaluation. She remained 
hemodynamically stable and was taken to the operating room on 
___. She underwent coronary artery bypass grafting x 2. 
Please see operative note for full details. She tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
  
She weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. She was weaned from inotropic and 
vasopressor support. Beta blocker was initiated and she was 
diuresed toward her preoperative weight. She developed Afib with 
RVR on POD2 and was treated IV Amiodarone bolus and gtt. She was 
transitioned to oral amiodarone. An echo was done for 
hypotension while in RAF which revealed TR and RV dysfunction 
for which she continued on diuresis. She converted to SR that 
evening and had no further episodes of AFib. She was started on 
colchicine for pericarditis. EKG at time of discharge revealed 
improved ST elevations and colchicine was decreased for GI 
upset. She remained hemodynamically stable and was transferred 
to the telemetry floor for further recovery. She remained in the 
hospital for nausea and vomiting which resolved by time of 
discharge. LFTs are normal and she is moving her bowels without 
issue, colchicine dose has been decreased. She was evaluated by 
the physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD 7 she was ambulating 
freely, the wound was healing, and pain was controlled with oral 
analgesics. She was discharged home in good condition with 
appropriate follow up instructions. Her family will be staying 
with her at home. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Metoprolol Tartrate 25 mg PO BID 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Amiodarone 200 mg PO BID 
___ twice daily x2 more days then 200 daily until follow up with 
your cardiologist 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*45 
Tablet Refills:*0 
3.  Cephalexin 500 mg PO QID Duration: 5 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*20 Capsule Refills:*0 
4.  Colchicine 0.3 mg PO DAILY Duration: 14 Days 
RX *colchicine 0.6 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  Famotidine 20 mg PO BID Duration: 30 Days 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0 
7.  Furosemide 40 mg PO DAILY Duration: 14 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
8.  Potassium Chloride 20 mEq PO DAILY Duration: 14 Days 
to be taken with Lasix 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 
9.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
10.  Aspirin EC 81 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*1 
13. HELD- Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  This 
medication was held. Do not restart Triamterene-HCTZ (37.5/25) 
until ___ days of Lasix is complete

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft 
Past medical history:
Hypertension
Hyperlipidemia
Psoriasis
Hematuria 
Urethral lesion, has small kidney stone, was scheduled for
Cystoscopy on ___ at ___ - cancelled for cath
L4-L5 fusion
Hysterectomy
 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
 +1 Edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___